US09388176B2
7-(3-{[(3-isopropylphenyl)amino]carbonyl}phenyl)-N-(3-morpholin-4-ylpropyl)-5,6,7,8-tetrahydro-2,7-naphthyridine-4-carboxamide
To a mixture of 7-(3-{[(3-isopropylphenyl)amino]carbonyl}phenyl)-5,6,7,8-tetrahydro-2,7-naphthyridine-4-carboxylic acid (25 mg, 0.06 mmol), triethylamine (0.017 mL, 0.12 mmol), and catalytic DMAP in 1.1 mL 1,2-dichloroethane at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.043 mL, 0.072 mmol). After 5 min at rt, 3-morpholinopropylamine (0.011 mL, 0.072 mmol) was added and the reaction stirred at rt for 1.5 hours. The reaction was partitioned between EtOAc and brine/aqueous NaHCO3 solution, the EtOAc layer washed with brine/aqueous NaHCO3 solution, dried with anhydrous Na2SO4 and rotary evaporated. This material was chromatographed eluting with CHCl3/MeOH to give the title compound as an off-white solid (17 mg, 54%). 1H NMR (CDCl3) δ: 8.50 (s, 1H), 8.48 (s, 1H), 7.83-7.92 (m, 2H), 7.54 (d, J=4.7 Hz, 2H), 7.46 (d, J=8.2 Hz, 1H), 7.34-7.41 (m, 1H), 7.20-7.33 (m, 2H), 7.13 (d, J=7.9 Hz, 1H), 7.03 (d, J=7.3 Hz, 1H), 4.50 (s, 2H), 3.52-3.63 (m, 8H), 3.23 (t, J=5.7 Hz, 2H), 2.87-2.98 (m, 1H), 2.56 (t, J=6.0 Hz, 2H), 2.47 (br. s., 4H), 1.75-1.85 (m, 2H), 1.27 (d, J=7.0 Hz, 6H)

reactant | 7-(3-{[(3-isopropylphenyl)amino]carbonyl}phenyl)-5,6,7,8-tetrahydro-2,7-naphthyridine-4-carboxylic acid | 0.06 mmol, 25 mg | C(C)(C)C=1C=C(C=CC1)NC(=O)C=1C=C(C=CC1)N1CCC=2C(=CN=CC2C1)C(=O)O | C25H25N3O3
reactant | triethylamine | 0.12 mmol, 0.017 mL | C(C)N(CC)CC | C6H15N
reactant | propylphosphonic anhydride | 0.072 mmol, 0.043 mL | CCCP(=O)=O | C3H7O2P
reactant | 3-morpholinopropylamine | 0.072 mmol, 0.011 mL | O1CCN(CC1)CCCN | C7H16N2O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 1.1 mL | ClCCCl | C2H4Cl2
product | 7-(3-{[(3-isopropylphenyl)amino]carbonyl}phenyl)-N-(3-morpholin-4-ylpropyl)-5,6,7,8-tetrahydro-2,7-naphthyridine-4-carboxamide | 17 mg, 54% | C(C)(C)C=1C=C(C=CC1)NC(=O)C=1C=C(C=CC1)N1CCC=2C(=CN=CC2C1)C(=O)NCCCN1CCOCC1 | C32H39N5O3
